US04968676
(4-tert-Butylbenzyl)-4-[3-(3-methylcyclohexyl)-propyl]cyclohexylamine
A solution of 11.9 g (0.05 mole) of 4-[3-(3-methylcyclohexyl)-propyl]cyclohexylamine in 50 ml of anhydrous methanol is acidified to pH 5-6 with a methanolic HCl solution, after which 8.1 g (0.05 mole) of 4-tert-butylbenzaldehyde and 15 g of dry molecular sieve (3 Å, Grace type 0564) are added and the mixture is cooled to 0° C. 1.6 g (0.025 mole) of sodium cyanoborohydride are added a little at a time to the stirred mixture, the latter is heated to room temperature and stirring is continued for 24 hours. Thereafter, the mixture is acidified with concentrated HCl, hydrogen cyanide formed is expelled by means of nitrogen, and the mixture is filtered and rendered alkaline with dilute NaOH. It is extracted several times with dichloromethane, the organic phase is dried over MgSO4 and evaporated down, and the residue is distilled to give 9.5 g (56% of theory) of a yellow oil of boiling point 236°- 242° C./0.4 mm (compound no. 65).

reactant | 4-[3-(3-methylcyclohexyl)-propyl]cyclohexylamine | 0.05 mole, 11.9 g | CC1CC(CCC1)CCCC1CCC(CC1)N | C16H31N
reactant | HCl | Cl | ClH
reactant | 4-tert-butylbenzaldehyde | 0.05 mole, 8.1 g | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | sodium cyanoborohydride | 0.025 mole, 1.6 g | C(#N)[BH3-].[Na+]
reactant | hydrogen cyanide | C#N | CHN
solvent | methanol | 50 ml | CO | CH4O
product | (4-tert-Butylbenzyl)-4-[3-(3-methylcyclohexyl)-propyl]cyclohexylamine | C(C)(C)(C)C1=CC=C(CNC2CCC(CC2)CCCC2CC(CCC2)C)C=C1 | C27H45N
